Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
VT
 
Major Surgical or Invasive Procedure:
intubation, paralysis in setting of VT arrests
 
History of Present Illness:
___ is a ___ year old woman with history of brain 
tumors s/p resection c/b complex partial seizures and 
developmental delay who presented to ___ with 
several weeks of nausea, vomiting and poor nutrition and found 
to have metabolic derangement and incessant VT responsive to IV 
magnesium now s/p ICD placement (___).

Mrs. ___ presented to ___ on ___ with 
three weeks of progressive nausea, vomiting (NB/NB) and 
lethargy. While typically ambulatory and verbal, she had gradual 
decline and became non-verbal and unable to ambulate on her. 
own. She also had shortness of breath following one vomiting 
episode. Also had one episode of rapid eye movement without 
clonic-tonic activity. Given these symptoms family took her to 
the ___ ED. In ED, she had low grade temp to 99.0, pulse 
116-140, and BP 108/74, satting 97%RA. EKG showed ST Elevation 
in V1-V3 with Brugada pattern. She had leukocytosis (22.8k), 
mild transaminitis, lipase 171, CK 6100, and lactate of 5.9. 
Troponin was elevated to 0.89. UA with ketones. Carbamazepine 
and Lamotrigine levels were normal. RUQUS was negative and CXR 
was normal. She was started on Zosyn and transferred to ICU. Her 
heart rate uptrended to 150 in the ED and she was given 
adenosine 12mg which showed her rhythm, revealing sinus 
activity. CT head showed no acute process.  She was taken 
emergently to the cardiac catheterization lab which showed no 
significant CAD. A TTE was essentially normal. 

Given that EKG showed Brugada syndrome and prolonged Qtc, 
carbamazepine was discontinued. Lamictal was continued and 
Keppra was initiated. It was thought that troponin elevation and 
CK elevation may have been secondary to subclinical seizures. 
Renal was consulted for rhabdomyolysis and recommended 
maintenacence IVF. 

During her admission, she had several episode of paroxysmal 
triggered monomorphic VT at rate of 140. She was initially 
hemodyanically stable with this rhythm and it self terminated. 
She has one episode where she lost consciousness and was shocked 
with CPR. She began to have more frequent runs of VT. She was 
see by EP and started on nadolol and was hemodynamically stable 
when not in VT. VT was was frequent during her stay and not 
responsive to lidocaine. It was briskly responsive to magnesium 
pushes, though electrolytes were normal. Her QTc was quite 
prolonged and had R on T phenomenon frequently. Given 
symptomatic VT, she underwent pacemaker/ICD implantation and was 
started on overdrive pacing at 80bpm with decrease in ectopy. QT 
was thought to be from channellopathy/Brugada with contribution 
of malnutrition so she was started on tube feeds. Transfer was 
arranged for further EP evaluation
  
On arrival to the CCU, patient is hemodynamically stable. She is 
non-verbal, crying out. She regards other people and does not 
appear to be in significant distress.

REVIEW OF SYSTEMS:  
Positive per HPI, unable to obtain from patient. 

 
Past Medical History:
- dysembryoplastic neuroepithelial tumor s/p resection (___) 
with followup resection in ___. 
-- c/b complex partial seizure disorder 
- static encephalopathy
- migraines
- cognitive disability. 
- Hypothyroidism

 
Social History:
___
Family History:
 Notable for family members with dysembryoplastic 
neuroepithelial tumor. Two cousins that died suddenly without 
explanation in their ___ and ___. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
============================
VS: 99.0 79 121/94 20 100RA
GENERAL: Thin, chronically ill appearing woman. Moaning but does 
not appear to be in distress. Does not answer questions. 
HEENT: OP clear, NG tube in place
NECK: JVP flat
CARDIAC: RRR, normal S1/S2. No m/r/g
LUNGS: CTA anteriorly. No wheeze.
ABDOMEN: Thin. Soft, NT. NABS
EXTREMITIES: Warm. Well perfused. MAE
SKIN: No rash, skin break down
PULSES: 2+

DISCHARGE PHYSICAL EXAM: 
============================
patient expired. 
 
Pertinent Results:
LABS: 
========================
___ 09:00PM BLOOD WBC-13.9* RBC-3.24* Hgb-10.6* Hct-32.3* 
MCV-100* MCH-32.7* MCHC-32.8 RDW-12.7 RDWSD-46.0 Plt ___
___ 09:00PM BLOOD ___ PTT-31.7 ___
___ 09:00PM BLOOD Glucose-87 UreaN-8 Creat-0.7 Na-141 K-4.0 
Cl-104 HCO3-17* AnGap-24*
___ 09:00PM BLOOD ALT-131* AST-148* LD(LDH)-1389* 
CK(CPK)-4848* AlkPhos-49 TotBili-0.3
___ 09:00PM BLOOD CK-MB-188* MB Indx-3.9 cTropnT-1.44*
___ 09:00PM BLOOD Albumin-3.2* Calcium-9.1 Phos-2.9 Mg-2.3
___ 06:06PM BLOOD VitB12-1006* Folate-10.5
___ 06:06PM BLOOD Ammonia-78*
___ 11:15PM BLOOD TSH-5.5*
___ 09:00PM BLOOD TSH-1.0
___ 04:35AM BLOOD T4-5.8 T3-30*
___ 05:43PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-POS* Barbitr-NEG Tricycl-NEG
___ 12:05AM BLOOD Glucose->500 Lactate-6.6* Na-130* K-3.4 
Cl-110*

MICROBIOLOGY: 
=======================
___ SPUTUM GRAM STAIN-FINAL; RESPIRATORY 
CULTURE-PRELIMINARY {YEAST} INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 
___ URINE URINE CULTURE-FINAL {YEAST} INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 
___ SEROLOGY/BLOOD RAPID PLASMA REAGIN 
TEST-FINAL INPATIENT 
___ URINE URINE CULTURE-FINAL {YEAST} INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 

___ STUDIES: 
=======================
+ EKG: A paced at 80 bpm. No ectopy. Brugada pattern in V1-V3. 
No reciprocal changes. 
+ TTE: normal  
+ CARDIAC CATH: no significant CAD  

___ STUDIES: 
=======================
+ TTE (___): The left atrium and right atrium are normal 
in cavity size. Left ventricular wall thicknesses and cavity 
size are normal. There is mild-moderate global left ventricular 
hypokinesis with preserved function of the inferior septum and 
apical segments (LVEF = 40%). Right ventricular chamber size and 
free wall motion are normal. The aortic valve leaflets (3) 
appear structurally normal with good leaflet excursion and no 
aortic stenosis. Trace aortic regurgitation is seen. The mitral 
valve appears structurally normal with trivial mitral 
regurgitation. The estimated pulmonary artery systolic pressure 
is normal. There is no pericardial effusion. IMPRESSION: 
Mild-moderate global left ventricular systolic dysfunction with 
regional dysfunction in an atypical/non-ischemic pattern. Normal 
right ventricular systolic function. 

+ TTE (___): Left ventricular wall thicknesses and cavity 
size are normal. There is severe global left ventricular 
hypokinesis (LVEF = ___ %). with depressed free wall 
contractility. There is some sparing of the basal inferolateral 
wall and apical cap. The mitral valve leaflets are structurally 
normal. There is no mitral valve prolapse. Mild to moderate 
(___) mitral regurgitation is seen. The estimated pulmonary 
artery systolic pressure is normal. There is no pericardial 
effusion.  Compared with the prior study (images reviewed) of 
___, left ventricular contractile function is more 
impaired. Right ventricular systolic function has declined. The 
degree of mitral regurgitation has increased.  
 
Brief Hospital Course:
___ is a ___ year old woman with history of 
dysembryoplastic neuroepithelial tumor s/p resection c/b complex 
partial seizures and cognitive  delay who presented to ___ 
___ with several weeks intermittent nausea, vomiting 
and poor nutrition and found to have metabolic derangement and 
incessant VT requiring aggressive electrolyte repletion and ICD 
placement (___). She was transferred to ___ for further 
electrophysiologic care. Her hospital course was complicated by 
multiple prolonged VT arrests c/b ARDS, severe cardiogenic shock 
with 5 pressor requirement and likely anoxic brain injury. She 
was made DNR after multiple prolonged resuscitations and expired 
on ___ at 4:42AM

In brief, Ms. ___ was in usual state of health (able to 
ambulate, communicate) until one month ago when she began to 
have episodes of lightheadedness, fatigue, nausea and vomiting. 
She was seen by her outpatient neurologist with no clear 
etiology identified and was started on meclizine. The episodes 
continued and she had worsening mental status and functional 
ability. She presented to ___ where she was found to have 
evidence of shock, rhabdomyolysis, numerous 
metabolic/electrolyte imbalances and EKG with ST elevations in 
anterior leads c/f ischemia vs Brugada syndrome. Cardiac 
catheterization was normal and TTE was unremarkable. She was 
observed to have runs of monomorphic VT which were 
hemodynamically unstable. Multiple anti-arrhythmic were trialled 
(lidocaine, amiodarone, nadolol) with best response seen to 
magnesium. EKGs and telemetry revealed VT was triggered by 
Lateral LV PVC. Given concern for underlying channelopathy and 
metabolic derangements a ICD-PPM was placed to provide overdrive 
pacing to shorten the QTc and provide anti-arrhythmic therapy. 
This resulted in decreased burden of VT but not resolution. She 
was then transferred to ___ for further care. She remained 
with poor mental status (non-verbal, unable to move without 
assistance.) She was continued on Atrial overdrive pacing, 
nadolol and magnesium but had continued VT. At recommendation of 
EP, she was started on quinidine for concern for Brugada as 
etiology. Following initiation she had episode of prolonged 
unstable VT which devolved into PEA, lasting 1 hour (received 
mult rounds of epi, lidocaine, ___ magnesium, atropine for 
bradycardia x1, insulin, bicarb).  She was intubated and started 
on cooling protocol, on inhaled nitric oxide, changed to 
epoprostanol, on 3 pressors and paralyzed. Chest X-ray showed 
evidence of ARDS with severe hypoxia. She was then trialled on 
Dilantin to decrease Qtc without significant improvement. Soon 
after she became hypotensive and then lost pulse. She had 
further PEA arrest with wide complex but slow, rhythm . She was 
increased to max dose of 5 pressors (epi, levophed, dopamine, 
then added and maxed phenylephrine and vasopressin). She had 
multiple shocks for development of AIVR. Exam was notable for 
dilated irregular pupils after multiple codes. After discussion 
with family, code status was changed to DNR. She expired at 
4:42AM on ___. Autopsy was declined. 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Vitamin D 1000 UNIT PO DAILY 
2. Carbamazepine (Extended-Release) 800 mg PO QHS 
3. Meclizine 12.5 mg PO TID 
4. LamoTRIgine 225 mg PO BID 
5. Levothyroxine Sodium 112 mcg PO DAILY 
6. CarBAMazepine 600 mg PO DAILY 

 
Discharge Medications:
patient expired.
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Ventricular Tachycardia 
Likely Brugada Syndrome
ARDS
Cardiogenic Shock
 
Discharge Condition:
patient expired
 
Discharge Instructions:
patient expired
 
Followup Instructions:
___